US07863450B2
Thionyl chloride (11 ml, 150 mmol, 3 eq) is added to a solution of 4-(benzyloxy)-N-(2-hydroxy-1,1-dimethylethyl)benzamide ax1 (14.98 g, 50 mmol, 1 eq) in chloroform (400 ml) and the mixture is heated at reflux for 2 h. The solvent is then removed under vacuum, and the residue is dissolved into dichloromethane. The organic layer is washed with a saturated solution of aqueous sodium bicarbonate, dried over magnesium sulfate, and concentrated under vacuum to give 2-[4-(benzyloxy)phenyl]-4,4-dimethyl-4,5-dihydro-1,3-oxazole ax4 (4.3 g).

reactant | Thionyl chloride | 150 mmol, 11 ml, 3 eq | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(benzyloxy)-N-(2-hydroxy-1,1-dimethylethyl)benzamide | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NC(CO)(C)C)C=C1 | C18H21NO3
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[4-(benzyloxy)phenyl]-4,4-dimethyl-4,5-dihydro-1,3-oxazole | 4.3 g, Yield: 99% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1OCC(N1)(C)C | C18H19NO2
